Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Numbness of left fingertips. 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Mr. ___ is a ___ male with PMH of DM, HTN, HLD here with new 
onset L fingertip tingling x 10 hours. He states that he woke up 
in the middle of the night, with left arm tingling. At first he 
thought he slept on it funny. He took his own BP at this time 
and it was elevated, SBP 150s. When the tingling did not go away 
by the morning or after taking his AM medications, he decided to 
go to the ED. His tingling resolved after presentation to the 
ED. He denies any associated chest pain, nausea, diaphoresis, 
dyspnea, fevers, chills. No weakness, no headache, no neck 
stiffness, no focal neurological deficits. He states that he has 
never experienced this sensation before, and it resolved on its 
own.  He regularly exercises on the elliptical about 45 minutes 
every day and has never experienced this hand/arm tingling or 
chest pain. He has no hx of MI, ACS, stroke, anticoagulant use.  

 
Past Medical History:
hypertension
dyslipidemia
diabetes (last A1c 6.0 on ___  
Aortic Stenosis, new murmur found on PE, ECHO performed on 
___  
Cholecystectomy  
Colonic Adenoma  
Depressive disorder 
 
Social History:
___
Family History:
 Father with history of prostate CA, died at ___. Mother with 
history of MI and stent in her ___, died of old age at ___. No 
siblings. Daughter in good health. No family history of early 
MI, arrhythmia, cardiomyopathies, or sudden cardiac death.  
 
Physical Exam:
==========================
ADMISSION PHYSICAL
==========================

 VS: 97.9, 162/88, 92, 18, 100% RA  
 GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
 NECK: Supple with JVP <10 cm.  
 CARDIAC: RR, normal S1, S2. ___ systolic ejection murmur heard 
best at RUSB with radiation to the carotids. No rubs/gallops. No 
thrills, lifts.  
 LUNGS: Resp unlabored, no accessory muscle use. Lungs CTAB. No 
crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: Warm, well perfused, no edema or discoloration.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Radial and distal pulses palpable and symmetric.

==========================
DISCHARGE PHYSICAL
==========================

 VS: 98.3 140/87 81 18 98% RA  
 GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
 NECK: Supple with JVP <10 cm.  
 CARDIAC: RR, normal S1, S2. ___ systolic ejection murmur heard 
best at RUSB with radiation to the carotids. No rubs/gallops. No 
thrills, lifts.  
 LUNGS: Resp unlabored, no accessory muscle use. Lungs CTAB. No 
crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: Warm, well perfused, no edema or discoloration.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Radial and distal pulses palpable and symmetric.
 
Pertinent Results:
==========================
ADMISSION LABS
==========================

___ 05:45AM BLOOD WBC-5.1 RBC-3.85* Hgb-11.7* Hct-34.9* 
MCV-91 MCH-30.4 MCHC-33.5 RDW-12.3 RDWSD-40.8 Plt ___
___ 07:00AM BLOOD WBC-8.2# RBC-4.11* Hgb-12.4* Hct-37.4* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-12.1 RDWSD-40.0 Plt ___
___ 05:45AM BLOOD Glucose-121* UreaN-21* Creat-1.1 Na-128* 
K-7.2* Cl-94* HCO3-22 AnGap-19
___ 07:00AM BLOOD cTropnT-<0.01
___ 01:00PM BLOOD cTropnT-<0.01
___ 05:45AM BLOOD Calcium-9.1 Mg-1.9

==========================
DISCHARGE LABS
==========================

___ 08:12AM BLOOD WBC-4.5 RBC-4.23* Hgb-13.0* Hct-38.5* 
MCV-91 MCH-30.7 MCHC-33.8 RDW-12.5 RDWSD-41.2 Plt ___
___ 08:12AM BLOOD Glucose-129* UreaN-13 Creat-1.0 Na-136 
K-4.3 Cl-98 HCO3-26 AnGap-16
___ 08:12AM BLOOD Calcium-9.7 Phos-3.1 Mg-2.1

==========================
IMAGING 
==========================

___ Chest X Ray
 
The cardiomediastinal silhouette and pulmonary vasculature are 
unremarkable. 
The lungs are clear.  There is no pleural effusion or 
pneumothorax.
 
IMPRESSION: 
No acute intrathoracic abnormality.

___ CT Head Non Con

FINDINGS: 
There is no evidence of infarction, hemorrhage, edema, or mass.  
There is
prominence of the ventricles and sulci suggestive of 
involutional changes.
Small area of hyperdensity in the left basal ganglia are likely 
reflect
mineralization.
 
There is no evidence of fracture.  There is diffuse mucosal 
thickening
involving the frontal, ethmoid, and sphenoid sinuses.  Mastoid 
air cells and
middle ear cavities are clear.  The visualized portion of the 
orbits are
unremarkable.
 
IMPRESSION: 
1. No acute intracranial hemorrhage.

==========================
STUDIES
==========================

___ Exercise EKG Stress Test

RESTING DATA
EKG:  SINUS, AV DELAY, NSSTTWS 
HEART RATE:  96BLOOD PRESSURE:  148/86
 
PROTOCOL ___ - TREADMILL
STAGETIMESPEEDELEVATIONHEARTBLOODRPP
 (MIN)(MPH)(%)RATEPRESSURE 
___
___
 
TOTAL EXERCISE TIME:  7% MAX HRT RATE ACHIEVED:  110
SYMPTOMS:NONE 
ST DEPRESSION:ISCHEMIC
PEAK ___EPRESSION, ___LEVATION IN AVR
        TIME        HR    BP  RPP
ONSET:4.5 ___
RESOLUTION:    
 
INTERPRETATION: This ___ yo man with h/o HTN, HLD, NIDDM, and
moderate AS was referred to the lab from the ED following 
negative
serial cardiac enzymes for evaluation of atypical chest 
discomfort. The
patient exercised for 7 minutes of ___ protocol and was 
stopped for
fatigue. The estimated peak MET capacity was 8.2, which 
represents a
good exercise tolerance for his age. There were no reports of 
chest,
back, neck, or arm discomforts during the study. At peak 
exercise and in
the setting of baseline NSSTTWs (including 0.5-___epressions with TWI inferolaterally), there was an additional 
1-1.___epression from baseline with biphasic T waves in 
the
inferior leads and V4-V6, as well as 1-___levation in aVR. 
These
changes resolved back to baseline by 12 minutes of recovery. 
Rhythm was
sinus with frequent isolated APBs, one atrial couplet, two 
atrial
triplets, brief atrial bigeminy, and one VPB. There was an 
appropriate
heart rate response during exercise and recovery. Mild resting 
systolic
hypertension with a mild asymptomatic drop in blood pressure at 
peak
exercise and an overall flat response to exercise.

IMPRESSION: Ischemic EKG changes in the setting of baseline 
NSSTTWs with
mild asymptomatic drop in blood pressure and no anginal type 
symptoms.
Frequent low-grade AEA as noted. Average functional capacity.
SIGNED: ___

 
Brief Hospital Course:
************TRANSITIONAL ISSUES****************
#CODE: Full (confirmed ___
#CONTACT: ___, ___. ___, 
friend, ___. 
#PCP: Dr. ___
#Cardiology: Dr. ___ 
#Changed HCTZ to chlorthalidone 
#Changed pravastatin to atorvastatin 
#Stress ECHO to be scheduled week of ___ by cardiology
#Chem 10 in 1 week given changing diuretic to chlorthalidone 

#Exercise EKG stress test: Patient presented to the ED after 
waking up with numbness the fingertips of his left hand that 
lasted for 10 hours before self-resolving. His resting EKG was 
unchanged from ___ and his troponins were negative x 2. His 
symptoms were not reproduced during exercise and he did not have 
classic angina. During his stress test, he did have ischemic EKG 
changes and a mild asymptomatic drop in blood pressure. This is 
in the setting of known aortic stenosis. The decision to delay 
cardiac catheterization was made until a more informative stress 
test is performed.
- stress ECHO as an outpatient. 

#Hypertension - Blood pressure within normal limits at 
discharge, but switched to chlorthalidone for long term risk 
reduction. 
- Stop HCTZ 25mg daily
- Start Chlorthalidone 25mg daily 

#Hypercholesterolemia - Changed to Lipitor for improved long 
term risk reduction 
- Stop pravastatin 80mg daily 
- Start atorvastatin 40mg daily 
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Pravastatin 80 mg PO QPM 
4. GlipiZIDE 2.5 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
2.  Atorvastatin 40 mg PO QPM  
3.  Chlorthalidone 25 mg PO DAILY 
4.  amLODIPine 5 mg PO DAILY  
5.  GlipiZIDE 2.5 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Paresthsia of the left fingertips, unknown 
etiology. 

Secondary diagnosis: Positive exercise EKG stress test, 
hypertension, hyperlipidemia, diabetes.  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your stay at ___. 

You came to the hospital for numbness in your fingertips that 
did not go away.  

Blood tests showed you were not having a heart attack.  A 
exercise test was performed.  You had changes on your EKG during 
exertion.  This is suggestive of narrowings in your coronary 
arteries, the blood vessels that supply your heart with 
oxygen(known as "coronary artery disease").  

The gold standard for diagnosing coronary artery disease is a 
cardiac catheterization, an invasive test that assesses the 
coronary arteries directly.  However, since your symptoms were 
not reproduced during the stress test and you have aortic 
stenosis, the stress test results can be difficult to interpret. 
 We discussed the possibility that the test may have been a 
false-positive.  

In order to clarify your need for cardiac catheterization, a 
second stress test with an ultrasound of your heart is needed 
("stress ECHO").  After a discussion with our team, we decided 
to perform this test as an outpatient.  

We adjusted some of your medications, please take them as 
prescribed and have your labs checked in 1 week (rx provided).   


Please follow up with your primary care doctor on ___ as 
planned.  

Dr. ___ be your cardiologist moving forward.

Sincerely, 

Your ___ team 

You were admitted for possible cardiac catheterization. 

 
Followup Instructions:
___